US05298652
Sodium hydroxide hydrolysis of N-(2-ethoxy-2-oxoethyl)-N-[3-methoxycarbonyl-5-(octadecyloxy)benzoyl]glycine ethyl ester as in Example 11 gave N-(carboxymethyl)-N-[3-carboxy-5-(octadecyloxy) benzoyl]glycine, mp 108°-112°. The nmr and mass spectra were compatible with the structure.

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | N-(2-ethoxy-2-oxoethyl)-N-[3-methoxycarbonyl-5-(octadecyloxy)benzoyl]glycine ethyl ester | C(C)OC(CN(C(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)C(=O)OC)=O)CC(=O)OCC)=O | C35H57NO8
product | N-(carboxymethyl)-N-[3-carboxy-5-(octadecyloxy) benzoyl]glycine | C(=O)(O)CN(CC(=O)O)C(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)C(=O)O)=O | C30H47NO8
